US06420555B1
Preparation 3: 3-(3-Chlorophenyl)indole
A solution of 2-(3-chlorophenyl)-acetaldehyde (5.80 g, 37.5 mmol) and phenylhydrazine (6.22 g, 57.5 mmol) in glacial acetic acid (150 mL) was saturated with nitrogen by bubbling N2 through the solution. The solution was then refluxed for about 2.5 hours. Solvent was removed in vacuo and the residue obtained was dissolved in DCM and washed with 1N HCl aqueous solution (2 times), saturated NaHCO3 aqueous solution (2 times) and brine (2 times), dried over anhydrous MgSO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica, eluting with EtOAc/hexane 1:6. The title compound was obtained as a reddish oil. Yield: 5.30 g, 62%. Rf=0.26 (silica, EtOAc/hexane 1:4).

reactant | 2-(3-chlorophenyl)-acetaldehyde | 37.5 mmol, 5.80 g | ClC=1C=C(C=CC1)CC=O | C8H7ClO
reactant | phenylhydrazine | 57.5 mmol, 6.22 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(3-Chlorophenyl)indole | ClC=1C=C(C=CC1)C1=CNC2=CC=CC=C12 | C14H10ClN
